US06579884B1
Synthesis of 2,6-dimethyl-3-hydroxymethyl-8-(2-methoxymethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine
lithium aluminum hydride (0.29 g, 7.7 mmol) was added to tetrahydrofuran (30 ml) and 3-carbethoxy-8-(2-methoxymethyl-6-methylbenzylamino)-2-methylimidazo[1,2-a]pyridine (1.4 g, 3.8 mmol) dissolved in tetrahydrofuran (30 ml) was added dropwise during 80 min. at room temperature and stirred for 4 h. Water (0.29 ml) was added dropwise, followed by sodium hydroxide (15%, 0.29 ml) and finally 0.93 ml of water. After stirring 30 min. the solids were filtered off and washed thoroughly with tetrahydrofuran. The solvent was removed under reduced pressure and chromatography on silica gel (methylene chloride:methanol, 9:1) gave (0.97 g 75%) of the title compound as a white solid.

reactant | lithium aluminum hydride | 7.7 mmol, 0.29 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-carbethoxy-8-(2-methoxymethyl-6-methylbenzylamino)-2-methylimidazo[1,2-a]pyridine | 3.8 mmol, 1.4 g | C(=O)(OCC)C1=C(N=C2N1C=CC=C2NCC2=C(C=CC=C2C)COC)C | C21H25N3O3
reactant | Water | 0.29 ml | O | H2O
reactant | sodium hydroxide | 0.29 ml | [OH-].[Na+]
reactant | water | 0.93 ml | O | H2O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2,6-dimethyl-3-hydroxymethyl-8-(2-methoxymethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)COC)C)C1CO | C20H25N3O2
